US04977175
In an autoclave 6.6 g (22.9 mmols) of methyl 1-methylbenzimidazole-5-carboxylate sulfate, 60 ml of acetic acid and 3.0 g of 5% rhodium-carbon powders were charged and hydrogenation was carried out at 80° C. for 92 hours under 60 atms. After cooling, rhodium-carbon powders were filtered off and the filtrate was distilled off under reduced pressure. After 200 ml of water was added to the residue, 1 N sodium hydroxide solution was added to the mixture at 0° to 5° C. to adjust pH to 9 to 10 followed by extraction with ethyl acetate. The ethyl acetate layer was dried over anhydrous magnesium sulfate and the solvent was distilled off to give 3.45 g (77.7%) of methyl 1-methyl-4,5,6,7-tetrahydrobenzimid-azole-5-carboxylate (oil).

reactant | methyl 1-methylbenzimidazole-5-carboxylate sulfate | 22.9 mmols, 6.6 g | S(=O)(=O)(O)O.CN1C=NC2=C1C=CC(=C2)C(=O)OC
catalyst | rhodium-carbon | 3.0 g | [C].[Rh]
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | methyl 1-methyl-4,5,6,7-tetrahydrobenzimid-azole-5-carboxylate | 3.45 g, 77.7% | CN1C=NC2=C1CCC(C2)C(=O)OC | C10H14N2O2
